Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:5],1.70779412057
[C:3](/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-8.092354259630001
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3],4.5019946839300005
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[C:7]([H:8])[O:9][C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[C:5][H:6],5.04438668237
[H:1][O:2][C:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[O:11][H:12]>>[H:1].[O:2][C@@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[O:11][H:12],4.60443458607
[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2](#[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:5]([H:3])=[O:4],1.09359102015
[H:12].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.64151727576
[C:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-5.19911470751
[H:15].[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.51559122442
[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][H:5]>>[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.20446808534
[C:1]#[C:2][O:3][H:4].[C:5](#[C:6][H:7])[O:8][H:9]>>[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6][H:7])[O:8][H:9],-0.705038265501
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-6.19052176303
[C:10]([H:11])([H:12])[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-0.900869171579
[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.61165442581
[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]([H:3])([C:4]([H:5])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.33939125582
[C:4]([H:5])([H:6])[H:7].[O:1][C:2]([O:3])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.71582463066
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13],-0.771937269648
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:5],1.7944858473599996
[C:2]([H:3])=[C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-6.29078610947
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],-0.190071066441
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:8](/[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],3.39305339538
[H:14].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.58247308852
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.44720075072
[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]=[C:3]([O:4][H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1],4.412954658159999
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1]/[C:2](=[C:3](/[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.6896716628
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8],8.98402416
